US05032588
Methyl diethylphosphonoacetate (1.6 g, 7 5 mmol) and NaH (0.19 g, 7.5 mmol) in THF (25 mL) was added to 2-acetyl-6-methoxynaphthalene (1.5 g, 7.5 mmol) in THF (50 mL) at 23° C. under nitrogen. After refluxing for 20 hours, the reaction mixture was cooled, saturated NH4Cl added, and the mixture poured into water. The solution was extracted with ether and the organic extracts were dried (MgSO4) and the solvent evaporated. Chromatography (silica gel, ether/pentane) afforded methyl 3-(6-methoxy-2-naphthyl)-2-butenoate (0.75 g). This intermediate (0.51 g, 2 mmol) in methanol (50 mL) was hydrogenated with 20% Pd/C (50 mg) at 3 atm at 23° C. until the theoretical amount of hydrogen was taken up. Removal of solvent and catalyst gave the crude ester which was dissolved in isopropanol/water : 2/1 (40 mL). Lithium hydroxide (82 mg, 2 mmol) was added and the reaction mixture stirred at 23° C. for 1 hour. Saturated ammonium chloride was added and the mixture extracted with ethyl acetate. Removal of solvent followed by recrystallization from methanol/water gave 3-(6-methoxy-2-naphthyl) butyric acid (0.45 g). Bromine (3 mL of a 1M solution in CCl4, 3 mmol) was added slowly to the acid (0.37 g, 1.5 mmol) and PBr3 (0.4 g, 1.5 mmol) in CCl4 (20 mL) at 23° C. under nitrogen. The mixture was heated at 80° C. for 20 hours. The mixture was then cooled and poured into ice water. Extraction with benzene followed by drying (Na2SO4) and evaporation gave a crude residue which was distilled under reduced pressure (0.5 mm) to afford 2-bromo-3-(6-methoxy-2-naphthyl)butyrylbromide (0.55 g). 1H NMR(60 MHz, DMSO-d6): 1.30 (3H, d J=7 Hz), 3.80 (3H, s), 4.01 (1H, g, J=7 Hz), 4.20 (1H, d, J=7 Hz), 7.0-8.0 (6H, m); Mass Spectrum: 386(M+).

reactant | Methyl diethylphosphonoacetate | 5 mmol, 1.6 g | C(C)OP(=O)(OCC)CC(=O)OC | C7H15O5P
reactant | NaH | 7.5 mmol, 0.19 g | [H-].[Na+]
reactant | 2-acetyl-6-methoxynaphthalene | 7.5 mmol, 1.5 g | C(C)(=O)C1=CC2=CC=C(C=C2C=C1)OC | C13H12O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | methyl 3-(6-methoxy-2-naphthyl)-2-butenoate | 0.75 g | COC=1C=C2C=CC(=CC2=CC1)C(=CC(=O)OC)C | C16H16O3
